US06710055B2
1-Methyl-2-[2-(4-amidinophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide Dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[2-(4-cyanophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide, ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 90% of theory, C27H28N6O3 (484.6); Rf value: 0.17 (silica gel; dichloromethane/ethanol=4:1); EKA mass spectrum: (M+H)+=485; (M+2H)++=243; (M+H+Na)++=254.

reactant | 1-methyl-2-[2-(4-cyanophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C27H25N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[2-(4-amidinophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide Dihydrochloride | Yield: 90% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C27H28N6O3.2ClH/c1-3-36-25(34)17-33(23-6-4-5-15-30-23)27(35)20-12-13-22-21(16-20)31-24(32(22)2)14-9-18-7-10-19(11-8-18)26(28)29;;/h4-8,10-13,15-16H,3,9,14,17H2,1-2H3,(H3,28,29);2*1H
